US07476671B2
2-bromo-3-(2-butyn-1-yl)-5-(trans-2-methoxy-vinyl)-3H-imidazole-4-carboxylic acid-(3-methyl-isoquinolin-1-ylmethyl)-amide
A solution of 3.50 g 2-bromo-5-(trans-2-methoxy-vinyl)-3H-imidazole-4-carboxylic acid and 1.30 g TBTU in 1.20 ml triethylamine and 30 ml of dimethylformamide is stirred for 15 min at ambient temperature. Then 1.09 g 3-methyl-isoquinolin-1-ylmethylamine are added, and the resulting suspension is stirred for 4 h at ambient temperature. Then ice-cooled water is added and the precipitate is separated off. The precipitate is dissolved in dichloromethane, the solution is dried over sodium sulphate and the solvent is removed.

reactant | 2-bromo-5-(trans-2-methoxy-vinyl)-3H-imidazole-4-carboxylic acid | 3.50 g | BrC1=NC(=C(N1)C(=O)O)\C=C\OC | C7H7BrN2O3
reactant | TBTU | 1.30 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 3-methyl-isoquinolin-1-ylmethylamine | 1.09 g | CC=1N=C(C2=CC=CC=C2C1)CN | C11H12N2
reactant | water | O | H2O
solvent | triethylamine | 1.20 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-bromo-3-(2-butyn-1-yl)-5-(trans-2-methoxy-vinyl)-3H-imidazole-4-carboxylic acid-(3-methyl-isoquinolin-1-ylmethyl)-amide | CC=1N=C(C2=CC=CC=C2C1)CNC(=O)C=1N(C(=NC1\C=C\OC)Br)CC#CC | C22H21BrN4O2
